US06703392B2
2-[1-(3-propoxy-4-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide:
prepared by reaction of 2-[1-(3-hydroxy-4-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide with propyl bromide

reactant | 2-[1-(3-hydroxy-4-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide | OC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCC2=CC=CC=C2)C=CC1OC | C28H32N2O5
reactant | propyl bromide | C(CC)Br | C3H7Br
product | 2-[1-(3-propoxy-4-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide | C(CC)OC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCC2=CC=CC=C2)C=CC1OC | C31H38N2O5
